US05635510
20.2 Synthesis of ethyl-2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-acetate
2-[3-(3,4-Dichloro-phenyl)-1-(3,4,5-trimethoxybenzoyl)-pyrrolidin-3-yl]-ethanol (4.5 g, 9.9 mmol) was dissolved in dichloromethane/pyridine (70 mL, 6/1). The solution was treated with acetic anhydride (1.04 mL, 11.02 mmol, 1.1 eq.) and 4-dimethylaminopyridine (50 mg, 0.41 mmol, 0.04 eq.). The solution was allowed to stir for 2 h at ambient temperature. The organics were concentrated in vacuo and the residue was dissolved in ethyl acetate and washed with 1N HCl (2×200 mL), 5% NaHCO3 (100 mL), brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed on silica gel (300 g) with ethyl acetate to afford the title compound:

reactant | 2-[3-(3,4-Dichloro-phenyl)-1-(3,4,5-trimethoxybenzoyl)-pyrrolidin-3-yl]-ethanol | 9.9 mmol, 4.5 g | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCO | C22H25Cl2NO5
reactant | acetic anhydride | 11.02 mmol, 1.04 mL, 1.1 eq. | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane pyridine | 70 mL | ClCCl.N1=CC=CC=C1
catalyst | 4-dimethylaminopyridine | 0.41 mmol, 50 mg, 0.04 eq. | CN(C1=CC=NC=C1)C | C7H10N2
product | ethyl-2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-acetate | C(C)OC(CC1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC(=C(C=C1)Cl)Cl)=O | C24H27Cl2NO6
